US08030498B2
Preparation of 5-(ethylthio)carbonyloxy-1-methylpyrazol-4-yl 3-(methoxycarbonyl)-2-methyl-4-(methylsulfonyl)phenyl ketone (Compound No. 1 as Described Hereinafter)
5-Hydroxy-1-methylpyrazol-4-yl 3-(methoxycarbonyl)-2-methyl-4-(methylsulfonyl)phenyl ketone (290 mg, 0.82 mmol) was dissolved in dry tetrahydrofuran (15 mL), and triethylamine (166 mg, 1.64 mmol) was added thereto. A solution (4 mL) of 96% S-ethyl chlorothiolformate (107 mg) dissolved in dry tetrahydrofuran was added thereto little by little under cooling with ice water. The reaction mixture was stirred for 90 minutes while the reaction temperature was allowed to warm to room temperature. The reaction solution was poured into ice water, followed by extraction with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=6:4) to obtain the desired product as an amorphous solid (202 mg, 0.46 mmol) (yield: 56%).

reactant | 5-Hydroxy-1-methylpyrazol-4-yl 3-(methoxycarbonyl)-2-methyl-4-(methylsulfonyl)phenyl ketone | 0.82 mmol, 290 mg | COC(=O)C=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1O)C)C | C15H16N2O6S
reactant | triethylamine | 1.64 mmol, 166 mg | C(C)N(CC)CC | C6H15N
reactant | S-ethyl chlorothiolformate | 4 mL, 107 mg | CCSC(=O)Cl | C3H5ClOS
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 5-(ethylthio)carbonyloxy-1-methylpyrazol-4-yl 3-(methoxycarbonyl)-2-methyl-4-(methylsulfonyl)phenyl ketone | 0.46 mmol, 202 mg, yield: 56% | COC(=O)C=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1OC(=O)SCC)C)C | C18H20N2O7S2
